US07943609B2
2-[(11R)-5-Oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol (798 mg, 2.67 mmol) was dissolved in 25 mL of CH2Cl2 and treated with 5 mL of concentrated NH4OH solution. The mixture was stirred rapidly and p-toluenesulfonyl chloride (534 mg, 2.80 mmol) was carefully added. Rapid stirring was continued for 2 hours. The reaction mixture was then treated with 25 mL of H2O and the layers were separated. The aqueous portion was extracted with additional CH2Cl2 (3×20 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 10% methanol/CHCl3) gave a light yellow foam. Crystallization from ethyl acetate gave 2-[(11R)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol (220 mg) as white crystals, mp 216-217° C.

reactant | 2-[(11R)-5-Oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol | 2.67 mmol, 798 mg | [O-][N+]1=CC2=C(C3=CC=CC=C13)N1C(=N2)COC[C@@H]1C(C)(C)O | C16H17N3O3
reactant | NH4OH | 5 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 2.80 mmol, 534 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | 25 mL | O | H2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-[(11R)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol | 220 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)C(C)(C)O | C16H18N4O2
